datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([O:13][H:22])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12]([O:13][H:22])([H:20])[H:21],13.30512
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])([H:8])[O:16][O:17])([H:5])([H:6])[H:7],-2.244716
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],-5.4392
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([S:12][H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([S:12][H:15])([H:13])[H:14],41.0032
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2([H:13])[C:4]3([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]123>>[C:0]1([H:10])=[C:9]2[C:4]([H:14])([C:3]([H:13])[C:2]([H:12])=[C:1]1[H:11])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]2[H:18],43.932
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([C:6]([H:13])([H:14])[H:15])[C:5]1([H:11])[H:12])[H:7],148.741
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:29][H:30],-2.493664
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20]>>[C:0]12([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]1([H:15])[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]2([H:19])[H:20],25.9408
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:12])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.1488
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[C:15]([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][C:15]([H:16])([H:17])[H:18],23.7442
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8][H:9])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11],83.68
[N:0]([H:1])([H:2])[H:3].[O:4][H:5]>>[H:1][O:4][H:5].[N:0]([H:2])[H:3],109.424
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:24],16.438936
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[N:8]([H:9])[H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][N:8]([H:9])[H:10],57.7392
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],2.092
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:9]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[c:3]1[c:4][c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])[H:13],83.32436
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15](=[C:16]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18]>>[C:0]1([H:5])([H:6])[C:1]([H:7])=[C:2]([C:4]([H:10])([H:11])[H:12])[C:3]([H:8])([H:9])[C:13]([H:17])([H:18])[C:14]1([C:15](=[C:16]([H:21])[H:22])[H:20])[H:19],78.2408
